US05840716
Potassium carbonate (2.2 g) and ethyl iodide (4.3 g) were added to a solution of bis(p-hydroxyphenyl)disulfide (2.0 g) in DMF (20 ml), and the mixture was stirred at 70° C. for 16 hours and poured into ice water (100 ml). The mixture was extracted with hexane (500 ml) and concentrated to give bis(p-ethoxyphenyl)disulfide (1.8 g, 82%).

reactant | Potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 4.3 g | C(C)I | C2H5I
reactant | bis(p-hydroxyphenyl)disulfide | 2.0 g | OC1=CC=C(C=C1)SSC1=CC=C(C=C1)O | C12H10O2S2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | bis(p-ethoxyphenyl)disulfide | 1.8 g, 82% | C(C)OC1=CC=C(C=C1)SSC1=CC=C(C=C1)OCC | C16H18O2S2
